US07772227B2
(R)-3-Cyclohexyl-2,3-dihydro-6-[(cis)-2,6-dimethylpiperazin-1-ylcarbonyl]pyrrolo-[1,2,3-de]-1,4-benzoxazine hydrochloride salt
To a solution of (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-4-benzyl-2,6-dimethylpiperazin-1-ylcarbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt (200 mg, 0.42 mmol) in ethanol (5 ml) was added 10% palladium on charcoal (10 mg). The mixture was stirred under a hydrogen atmosphere for 16 h at room temperature. The mixture was filtered and the solvent removed in vacuo to afford the title compound as a white solid (100 mg, 0.26 mmol).

reactant | (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-4-benzyl-2,6-dimethylpiperazin-1-ylcarbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | 0.42 mmol, 200 mg | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2[C@H](CN(C[C@H]2C)CC2=CC=CC=C2)C
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | (R)-3-Cyclohexyl-2,3-dihydro-6-[(cis)-2,6-dimethylpiperazin-1-ylcarbonyl]pyrrolo-[1,2,3-de]-1,4-benzoxazine hydrochloride salt | 0.26 mmol, 100 mg | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2[C@H](CNC[C@H]2C)C | InChI=1S/C23H31N3O2.ClH/c1-15-11-24-12-16(2)26(15)23(27)19-13-25-20(17-7-4-3-5-8-17)14-28-21-10-6-9-18(19)22(21)25;/h6,9-10,13,15-17,20,24H,3-5,7-8,11-12,14H2,1-2H3;1H/t15-,16+,20-;/m0./s1
